US05817671
N-[phenyl]-N'-[3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridin-5-yl]urea
Beginning with 0.15 gm (0.65 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.092 mL (0.85 mMol) phenyl isocyanate, 0.137 gm (60%) of the title compound were recovered essentially by the procedure of Example 122. An analytical sample was crystallized from methanol.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.65 mMol, 0.15 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | phenyl isocyanate | 0.85 mMol, 0.092 mL | C1(=CC=CC=C1)N=C=O | C7H5NO
product | N-[phenyl]-N'-[3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridin-5-yl]urea | 0.137 gm, 60% | C1(=CC=CC=C1)NC(=O)NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C20H23N5O
